US06316482B1
To a solution of benzyl 2-hydroxymethylindole-4-carboxylate (456 mg) and imidazole (364 mg) in N,N-dimethylformamide (10 ml) was added tert-butyldiphenylsilyl chloride (802 mg) and the solution was stirred at ambient temperature for 2 hours. The resulting mixture was diluted with ethyl acetate (30 ml) and washed successively with water and brine. The organic layer was dried over magnesium sulfate and concentrated in vacuo. The residue was purified be silica gel column chromatography (eluent; n-hexane:ethyl acetate=15:1) to give benzyl 2-tert-butyldiphenylsilyloxymethylindole-4-carboxylate (810 mg).

reactant | benzyl 2-hydroxymethylindole-4-carboxylate | 456 mg | OCC=1NC=2C=CC=C(C2C1)C(=O)OCC1=CC=CC=C1 | C17H15NO3
reactant | imidazole | 364 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylsilyl chloride | 802 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | benzyl 2-tert-butyldiphenylsilyloxymethylindole-4-carboxylate | 810 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1NC=2C=CC=C(C2C1)C(=O)OCC1=CC=CC=C1 | C33H33NO3Si
